US07285564B2
Step B—Preparation of 1-Benzyl-4-(N-tert-butoxycarbonyl-N-isopropylamino)piperidine
A solution of 1-benzyl-4-isopropylaminopiperidine (69.7 g, 0.30 mol) in dichloromethane (200 mL) was cooled to 5° C. in an ice/water bath. To this solution was added di-tert-butyl dicarbonate (72.0 g, 0.33 mol) in dichloromethane (180 mL). The temperature did not rise more than 5° C. during the addition. The reaction mixture was stirred at 5° C. for 0.5 hour and then the ice/water bath was removed. The reaction mixture was stirred for 24 hours and was then concentrated in vacuo. The resulting yellow oil was placed under vacuum for 2 hours at which time it slowly crystallized to afford 98 g of the title intermediate as light yellow needle-shaped crystals (>99% yield).

reactant | 1-benzyl-4-isopropylaminopiperidine | 0.30 mol, 69.7 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C)C | C15H24N2
reactant | di-tert-butyl dicarbonate | 0.33 mol, 72.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 180 mL | ClCCl | CH2Cl2
product | 1-Benzyl-4-(N-tert-butoxycarbonyl-N-isopropylamino)piperidine | 98 g, >99% yield | C(C1=CC=CC=C1)N1CCC(CC1)N(C(C)C)C(=O)OC(C)(C)C | C20H32N2O2
